US06967204B2
5-Butyl-1H-pyrazol-3-carboxylic acid (22.6 g, 134 mmol) was added portionwise to concentrated sulfuric acid (100 ml) at room temperature with stirring. The reaction mixture was then heated to 60° C. and concentrated nitric acid (70%, 23.7 ml, 376 mmol) was added dropwise, keeping the temperature at 60° C. The reaction was then stirred at 60° C. for 3 hours, cooled to room temperature and poured onto 50 ml of ice with stirring. After 15 minutes the pale yellow precipitate was isolated by filtration, washed with water and dried under reduced pressure to give 5-butyl-4-nitro-1H-pyrazol-3-carboxylic acid (21.9 g) as a pale yellow solid. 1H NMR (400 MHz, DMSO-D6): δ=2.83-2.92 (2H, t), 1.56-1.64 (2H, quin), 1.22-1.36 (2H, sext), 0.84-0.90 (3H, t) ppm. LRMS (electrospray): m/z [M−H]+ 212. Anal. Found C, 30.19; H, 5.41; N, 13.12. C8H11N3O4. 6 mol H2O requires C, 29.91; H, 7.22; N, 13.08%.

reactant | 5-Butyl-1H-pyrazol-3-carboxylic acid | 134 mmol, 22.6 g | C(CCC)C1=CC(=NN1)C(=O)O | C8H12N2O2
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 376 mmol, 23.7 ml | [N+](=O)(O)[O-] | HNO3
product | 5-butyl-4-nitro-1H-pyrazol-3-carboxylic acid | 21.9 g | C(CCC)C1=C(C(=NN1)C(=O)O)[N+](=O)[O-] | C8H11N3O4
